US05438052
5-(Benzyloxy)-2-(hydroxymethyl)-4(1H)-pyrimidinone (0.696 g) (3 mmol), 0.787 g (3 mmol) of triphenylphosphine and 0.489 g (3 mmol) of N-hydroxyphthalimide are dissolved in 50 ml of dimethylacetamide. A solution of 0.640 g (3.3 mmol) of diethyl azodicarboxylate in 2 ml of dimethylacetamide is added dropwise at 20° C. The mixture is stirred at room temperature for 20 hours, the solvent is evaporated in a high vacuum and the residual yellow oil is crystallized from ethanol/ether. After recrystallization from ethanol there is obtained N-[(5-benzyloxy)-1,4-dihydro-4-oxo-2-pyrimidinyl]methoxy]phthalimide as white crystals of m.p. 157° C.

reactant | 5-(Benzyloxy)-2-(hydroxymethyl)-4(1H)-pyrimidinone | 3 mmol, 0.696 g | C(C1=CC=CC=C1)OC=1C(N=C(NC1)CO)=O | C12H12N2O3
reactant | triphenylphosphine | 3 mmol, 0.787 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 3 mmol, 0.489 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diethyl azodicarboxylate | 3.3 mmol, 0.640 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
